US04138292
[L-histidine ammonia-lyase activity is indicated in terms of micromoles of urocanic acid which are produced by reaction with L-histidine. The reaction with L-histidine is conducted by adding 10 g of the immobilized preparation to 30 ml of an aqueous 0.25 M L-histidine solution (pH 9.0), and shaking the mixture at 37° C. for one hour. The amount of urocanic acid produced in assayed colorimetrically at 277 nm (molecular extinction coefficient = 1.88 × 10-4 (pH 7.4)).]

reactant | L-histidine ammonia | N.N[C@@H](CC1=CNC=N1)C(=O)O
reactant | urocanic acid | C1=C(NC=N1)/C=C/C(=O)O | C6H6N2O2
product | L-histidine | N[C@@H](CC1=CNC=N1)C(=O)O | C6H9N3O2
